US06114532
a. Ethyl 3-(1H-benzimidazol-2-yl)-propionate
Hydrogen chloride gas is introduced into a suspension of 10 g (52.5 mmol) of 2-benzimidazole-propionic acid refluxing in 250 ml absolute ethanol over 1 hour. Then the mixture is concentrated by evaporation, the residue is dissolved in water and made alkaline with concentrated ammonia. Then it is extracted with ethyl acetate, the combined organic extracts are washed with water, dried and concentrated by evaporation.

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-benzimidazole-propionic acid | 52.5 mmol, 10 g | N1=C(NC2=C1C=CC=C2)CCC(=O)O | C10H10N2O2
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl 3-(1H-benzimidazol-2-yl)-propionate | N1C(=NC2=C1C=CC=C2)CCC(=O)OCC | C12H14N2O2
